US05464922
1.00 g 2-(3-butenyloxy)terephthalic acid synthesized according to Reference Example 1, 10 mg ammonium sulfate, and 7.65 g hexamethyldisilazane were combined and stirred at 60° C. for 24 hours. The ammonium sulfate was then removed and the excess hexamethyldisilazane was distilled off under reduced pressure to give 1.58 g bistrimethylsilyl 2-(3-butenyloxy)terephthalate.

reactant | 2-(3-butenyloxy)terephthalic acid | 1.00 g | C(CC=C)OC1=C(C(=O)O)C=CC(=C1)C(=O)O | C12H12O5
reactant | hexamethyldisilazane | 7.65 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
catalyst | ammonium sulfate | 10 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
product | bistrimethylsilyl 2-(3-butenyloxy)terephthalate | 1.58 g | C(CC=C)OC1=C(C(=O)O[Si](C)(C)C)C=CC(=C1)C(=O)O[Si](C)(C)C | C18H28O5Si2
